US07951550B2
a. 2-cyano-6-(2,4,6-trimethylbenzyloxy)benzothiazole
This compound was synthesized in a similar way to 2-cyano-6-(2-trifluoromethylbenzyloxy)benzothiazole with α2-chloroisodurene (100 mg, 0.852 mmol). 168 mg product was obtained.

reactant | 2-cyano-6-(2-trifluoromethylbenzyloxy)benzothiazole | C(#N)C=1SC2=C(N1)C=CC(=C2)OCC2=C(C=CC=C2)C(F)(F)F | C16H9F3N2OS
reactant | α2-chloroisodurene | 0.852 mmol, 100 mg | CC1=CC(=C(C(=C1)C)CCl)C | C10H13Cl
product | 2-cyano-6-(2,4,6-trimethylbenzyloxy)benzothiazole | 168 mg | C(#N)C=1SC2=C(N1)C=CC(=C2)OCC2=C(C=C(C=C2C)C)C | C18H16N2OS
